US07563797B2
Sodium hydroxide (1 mL, 2N) was added to a solution of 2-(3-chloro-phenyl)-imidazo[1,2-a]pyridine-7-carboxylic acid methyl ester (122 mg, 0.43 mmol) in THF (4 mL) and methanol (1 mL). The mixture was stirred for 4 hours then evaporated to dryness. Ethyl acetate was added and removed in vacuo three times to afford crude 2-(3-chloro-phenyl)-imidazo[1,2-a]pyridine-7-carboxylic acid sodium salt (quantitative yield) which was used without further purification. m/z (M+H)=273.1.

reactant | Sodium hydroxide | 2N, 1 mL | [OH-].[Na+]
reactant | 2-(3-chloro-phenyl)-imidazo[1,2-a]pyridine-7-carboxylic acid methyl ester | 0.43 mmol, 122 mg | COC(=O)C1=CC=2N(C=C1)C=C(N2)C2=CC(=CC=C2)Cl | C15H11ClN2O2
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | methanol | 1 mL | CO | CH4O
product | 2-(3-chloro-phenyl)-imidazo[1,2-a]pyridine-7-carboxylic acid sodium salt | quantitative yield | [Na+].ClC=1C=C(C=CC1)C=1N=C2N(C=CC(=C2)C(=O)[O-])C1 | InChI=1S/C14H9ClN2O2.Na/c15-11-3-1-2-9(6-11)12-8-17-5-4-10(14(18)19)7-13(17)16-12;/h1-8H,(H,18,19);/q;+1/p-1
